US05342840
5.56 g (21.1mmol) of (1S, 7R)-1-benzyloxymethyl-4,4-dimethyl-3,5-dioxabicyclo[5,1,0]octane in 50 ml of tetrahydrofuran was mixed with 50 ml of 1N HCl and the mixture was stirred for 30min. at 0° C. Tetrahydrofuran was evaporated off, and the residue was extracted with dichloromethane. The organic layer was dried over anhydrous sodium sulfate and evaporated to obtain 4.08 g (18.2 mmol, 86%) of (1R,2R)-1-benzyloxymethyl-2-hydroxymethyl cyclopropane-1-methanol. Colorless oil; 1H-NMR(CDCl3) δ: 0.41 (t, J=10.8 Hz, 1H), 0.66 (dd, J=5.4, 8.7 Hz, 1H), 1.32 (m, 1H), 3.25-3.4 (m, 4H) 3.60 (dd, J=1.7, 9.6 Hz, 1H), 4.06 (m, 1H), 4.22 (d, J=7.2 Hz, 1H), 4.27 (d, J=7.2 Hz, 1H), 4.56 (s, 2H), 7.34 (m, 5H); FD MASS, m/z 223 (MH+).

reactant | (1S, 7R)-1-benzyloxymethyl-4,4-dimethyl-3,5-dioxabicyclo[5,1,0]octane | 21.1mmol, 5.56 g | C(C1=CC=CC=C1)OC[C@]12COC(OC[C@@H]2C1)(C)C | C16H22O3
reactant | HCl | 1N, 50 ml | Cl | ClH
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | (1R,2R)-1-benzyloxymethyl-2-hydroxymethyl cyclopropane-1-methanol | 18.2 mmol, 4.08 g, 86% | C(C1=CC=CC=C1)OC[C@]1([C@@H](C1)CO)CO | C13H18O3
